US09445594B2
Preparation of 2-(3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)isoindoline-1,3-dione (C4)
To 2-(3-(4-bromophenyl)propyl)isoindoline-1,3-dione (6.46 g, 18.8 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (7.15 g, 28.2 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.831 g, 1.13 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (0.624 g, 1.13 mmol) in a 200 mL round-bottomed flask equipped with a stir bar and nitrogen was added potassium acetate (5.53 g, 56.3 mmol) followed by dioxane (56.9 mL). The reaction mixture was evacuated and purged with nitrogen. The reaction was heated to 80° C. overnight. The reaction was determined to be complete by LC/MS. The reaction was cooled. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography using 5-20% ethyl acetate/hexanes as eluent provided the title compound as a yellow oil (7.41 g, 101% yield): 1H NMR (400 MHz, CDCl3) δ 7.82 (dd, J=5.4, 3.0 Hz, 2H), 7.72-7.67 (m, 4H), 7.23-7.17 (m, 2H), 3.74 (t, J=7.2 Hz, 2H), 2.75-2.65 (m, 2H), 2.08-1.97 (m, 2H), 1.33 (s, 12H); 13C NMR (101 MHz, CDCl3) δ 168.38, 144.40, 134.93, 133.84, 132.09, 127.73, 123.17, 83.62, 60.40, 37.81, 33.42, 29.71, 24.85; ESIMS m/z 392 ([M+H]+).

reactant | 2-(3-(4-bromophenyl)propyl)isoindoline-1,3-dione | 18.8 mmol, 6.46 g | BrC1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H14BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 28.2 mmol, 7.15 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 56.3 mmol, 5.53 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.13 mmol, 0.831 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.13 mmol, 0.624 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 56.9 mL | O1CCOCC1 | C4H8O2
product | 2-(3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)isoindoline-1,3-dione | 7.41 g, 101% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C23H26BNO4
